US05990101
To 50 ml of a dry DMF solution containing 2.583 g of 2-(N-t-butoxycarbonylamino)methylthiazol-4-carboxylic acid, 1.53 ml of triethylamine and 2.37 ml of azido diphenylphosphate were added. Immediately after the mixed solution was then heated at an oil temperature of 100° C. for 10 minutes under stirring, it was cooled on ice to return its temperature to room temperature. Further, 2.0 ml of dry methanol was added, and after heating at an oil temperature of 80° C. for 30 minutes, the solvent was evaporated under reduced pressure. The residue was diluted with 100 ml of ethyl acetate and then washed with a 15% aqueous potassium carbonate solution, and the separated organic layer was then combined with a liquid extracted from the aqueous layer with 50 ml of ethyl acetate. Furthermore, the solution was washed with distilled water and a saturated saline solution in succession, and then dried over anhydrous magnesium sulfate. Afterward, the solvent was evaporated under reduced pressure to obtain an oil, and this oil was then purified by a silica gel column chromatograph to obtain 817 mg of 2-(N-t-butoxycarbonylamino)methyl-4-methoxycarbonylaminothiazole as a slightly red crystal.

reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
reactant | 2-(N-t-butoxycarbonylamino)methylthiazol-4-carboxylic acid | 2.583 g | C(C)(C)(C)OC(=O)NCC=1SC=C(N1)C(=O)O | C10H14N2O4S
reactant | triethylamine | 1.53 ml | C(C)N(CC)CC | C6H15N
reactant | methanol | 2.0 ml | CO | CH4O
product | 2-(N-t-butoxycarbonylamino)methyl-4-methoxycarbonylaminothiazole | 817 mg | C(C)(C)(C)OC(=O)NCC=1SC=C(N1)NC(=O)OC | C11H17N3O4S
